US07485732B2
1-{1-[1-(4-chlorophenyl)ethyl]azetidin-3-ylidene}-1-(3,5-difluorophenyl)-2-methylpropan-2-ol
A solution of 0.02 mg (0.53 mmol) of methyl{1-[1-(4-chlorophenyl)ethyl]azetidin-3-yl}(3,5-difluorophenyl)acetate in 2 mL ether was cooled to −78° C. under nitrogen. To this was added 0.8 mL of a 1.6M solution of methyllithium in ether and the solution was stirred at −78° C. After 1 h, the solution was quenched by addition of 1 mL water and the mixture was partitioned between 10 mL ether and 2 mL water. The aqueous layer was washed two times with 10 mL ethyl acetate and the combined organic extracts were dried over Na2SO4 and concentrated. The residue was purified by reverse phase chromatography (Waters Xterra C18, 19 mm×10 mm) using a gradient of CH3CN—H2O-Et3N (20:80:0.1 to 60:40:0.1). Homogenous fractions were pooled and concentrated to afford the title compound. 1NMR(CDCl3) δ 1.23 (s, 3H), 1.35 (s, 3H), 1.36 (s, 3H), 6.64-6.74 (m, 3H), 7.24-7.32 (m, 4H); Mass Spectrum: m/e=378 (M+1 35Cl) and 380 (M+1 35Cl).

reactant | methyl{1-[1-(4-chlorophenyl)ethyl]azetidin-3-yl}(3,5-difluorophenyl)acetate | 0.53 mmol, 0.02 mg | COC(C(C1=CC(=CC(=C1)F)F)C1CN(C1)C(C)C1=CC=C(C=C1)Cl)=O | C20H20ClF2NO2
reactant | methyllithium | C[Li]
reactant | ether | 2 mL | CCOCC | C4H10O
product | 1-{1-[1-(4-chlorophenyl)ethyl]azetidin-3-ylidene}-1-(3,5-difluorophenyl)-2-methylpropan-2-ol | ClC1=CC=C(C=C1)C(C)N1CC(C1)=C(C(C)(O)C)C1=CC(=CC(=C1)F)F | C21H22ClF2NO
